US04362728
A mixture of 4-[3-(2,2,2-trifluoroethyl)-thioureido]-2-[(2-phthalimidoethyl)thiomethyl]pyrimidine (6.8 g.), dimethylformamide (30 ml.), saturated ethanolic ammonia (5 ml.) and yellow mercuric oxide (6.5 g.) was stirred at room temperature for 2 hours and then filtered. The filtrate was evaporated to dryness and the residue triturated with ether and filtered to give 4-[2-(2,2,2-trifluoroethyl)guanidino]-2-[(2-phthalimidoethyl)thiomethyl]pyrimidine (5.6 g.), m.p. 167°-168° after crystallisation from ethanol.

reactant | 4-[3-(2,2,2-trifluoroethyl)-thioureido]-2-[(2-phthalimidoethyl)thiomethyl]pyrimidine | 6.8 g | FC(CNC(NC1=NC(=NC=C1)CSCCN1C(C=2C(C1=O)=CC=CC2)=O)=S)(F)F | C18H16F3N5O2S2
reactant | ammonia | 5 ml | N | H3N
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 4-[2-(2,2,2-trifluoroethyl)guanidino]-2-[(2-phthalimidoethyl)thiomethyl]pyrimidine | 5.6 g | FC(CN=C(NC1=NC(=NC=C1)CSCCN1C(C=2C(C1=O)=CC=CC2)=O)N)(F)F | C18H17F3N6O2S
